US08623859B2
tert-Butyl 4-[(4-{[5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazol-2-yl]carbonyl}piperazin-1-yl)methyl]piperidine-1-carboxylate
4-Methoxy-N,2,6-trimethyl-N-{[5-(piperazin-1-ylcarbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide (0.2 g, 0.44 mmol) and tert-butyl 4-formylpiperidine-1-carboxylate (0.14 g, 0.66 mmol) were dissolved in DCE (4 mL) and a few 4 Å molecular sieves added. The reaction was stirred for 30 min at ambient temperature prior to addition of STAB (0.28 g, 1.3 mmol). The reaction was stirred for 18 h, diluted with MeOH (0.5 mL) and concentrated in vacuo. The residue was redissolved in DCM (5 mL) and filtered through Celite, washing with DCM. The DCM solution was treated with acetic anhydride (0.1 mL, 1.0 mmol) and stirred for 30 min at ambient temperature. The solvent was removed in vacuo and the residue redissolved in MeOH (2 mL) and the solution absorbed on to a 2 g SCX cartridge. The sorbent was washed with MeOH (10 mL) and the product eluted with 7 N NH3 in MeOH (10 mL). The solvent was removed in vacuo to afford the title compound.

reactant | 4-Methoxy-N,2,6-trimethyl-N-{[5-(piperazin-1-ylcarbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide | 0.44 mmol, 0.2 g | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC(=NN1)C(=O)N1CCNCC1)C)C | C18H25N5O5S
reactant | tert-butyl 4-formylpiperidine-1-carboxylate | 0.66 mmol, 0.14 g | C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | acetic anhydride | 1.0 mmol, 0.1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCE | 4 mL | ClCCCl | C2H4Cl2
solvent | MeOH | 0.5 mL | CO | CH4O
product | tert-Butyl 4-[(4-{[5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-1,3,4-oxadiazol-2-yl]carbonyl}piperazin-1-yl)methyl]piperidine-1-carboxylate | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=NN=C(O1)C(=O)N1CCN(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)C | C29H44N6O7S
